US04059595
A 15.6 g quantity of 2-ethyl-6-methoxy-3-oxo-3,6-dihydro-2H-pyran, 15 g of 30% aqueous solution of hydrogen peroxide and 100 ml of methanol are cooled to a temperature of about 10° C with full stirring. The same procedure as in Example 6 is thereafter followed to obtain a concentrate, which is then distilled at a reduced pressure of 3 mm Hg to give 14.8 g of 6-methoxy-4,5-epoxy-3-oxo-2-ethyltetrahydropyran as a colorless liquid fraction at 83° to 88° C in a yield of 86.3%.

reactant | 2-ethyl-6-methoxy-3-oxo-3,6-dihydro-2H-pyran | C(C)C1OC(C=CC1=O)OC | C8H12O3
reactant | hydrogen peroxide | OO | H2O2
solvent | methanol | 100 ml | CO | CH4O
product | 6-methoxy-4,5-epoxy-3-oxo-2-ethyltetrahydropyran | 14.8 g, yield of 86.3% | COC1C2C(C(C(O1)CC)=O)O2 | C8H12O4
